US08623869B2
Step 3: 7-Ethynyl-2-(4-isopropylsulfonylphenyl)-5-(p-tolylsulfonyl)pyrrolo[2,3-b]pyrazine
A 60% dispersion of sodium hydride in mineral oil (19.79 mg, 0.5164 mmol) was added slowly to a stirred solution of 7-ethynyl-2-(4-isopropylsulfonylphenyl)-5H-pyrrolo[2,3-b]pyrazine (140 mg, 0.4303 mmol) in DMF (1.2 mL) at 0° C. The reaction mixture was stirred at this temperature for 20 minutes then tosyl chloride (82.04 mg, 0.4303 mmol) was added and reaction mixture allowed to warm to ambient temperature over 16 hours. The reaction mixture was quenched by the slow addition of water (30 mL) and the mixture stirred for 20 minutes. The aqueous layer was extracted with EtOAc (×3) and the combined organic extracts dried (MgSO4), filtered and concentrated in vacuo. The residue was triturated form DCM/diethyl ether and the resultant precipitate isolated by filtration to give the sub-tile compound as an off-white solid (112.6 mg, 59% Yield). 1H NMR (400.0 MHz, DMSO) δ 1.19 (d, 6H), 2.37 (s, 3H), 3.45-3.50 (m, 1H), 4.55 (s, 1H), 7.49 (d, 2H), 8.01 (d, 2H), 8.08 (d, 2H), 8.41 (d, 2H), 8.75 (s, 1H) and 9.22 (s, 1H) ppm; MS (ES+) 480.0.

reactant | sodium hydride | [H-].[Na+]
reactant | 7-ethynyl-2-(4-isopropylsulfonylphenyl)-5H-pyrrolo[2,3-b]pyrazine | 0.4303 mmol, 140 mg | C(#C)C1=CNC2=NC=C(N=C21)C2=CC=C(C=C2)S(=O)(=O)C(C)C | C17H15N3O2S
reactant | tosyl chloride | 0.4303 mmol, 82.04 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
product | 7-Ethynyl-2-(4-isopropylsulfonylphenyl)-5-(p-tolylsulfonyl)pyrrolo[2,3-b]pyrazine | C(#C)C1=CN(C2=NC=C(N=C21)C2=CC=C(C=C2)S(=O)(=O)C(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C24H21N3O4S2
